US05374615
2-Butyl-1-[[1-(2-cyanophenyl)-1H-indol-4-yl]methyl]-1H-imidazole-5-carboxylic acid
To 2-butyl-1-[[2,3-dibromo-1-(2-cyanophenyl)-1H-indol-4-yl]methyl]-1H-imidazole-5carboxylic acid in ethanol (26 ml, 0.032M), sodium hydroxide water solution (1N, 2.923 ml, 2,923 mmol, 3.5 eq.), and palladium hydroxide on carbon (186 mg) were added. The mixture was placed under a balloon of hydrogen gas and stirred at room temperature. After 1.5 hours, 20 ml water and 40 ml methanol were added and the reaction was filtered. The filtrate was concentrated to about 20 ml and acidified with 1N HCl to pH~2. The mixture was extracted with 10% methanol in methylene chloride. The extract was washed with brine and concentrated. The residue was chromatographed on silica gel eluting with EtOAc: Pyridine:AcOH:H2O (40:1:1:0.5) to give the title B compound (200 mg).

reactant | 2-butyl-1-[[2,3-dibromo-1-(2-cyanophenyl)-1H-indol-4-yl]methyl]-1H-imidazole-5carboxylic acid | C(CCC)C=1N(C(=CN1)C(=O)O)CC1=C2C(=C(N(C2=CC=C1)C1=C(C=CC=C1)C#N)Br)Br | C24H20Br2N4O2
reactant | sodium hydroxide water | 2,923 mmol, 1N, 2.923 ml, 3.5 eq. | O.[OH-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | water | 20 ml | O | H2O
solvent | ethanol | 0.032M, 26 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 186 mg | [OH-].[OH-].[Pd+2]
solvent | methanol | 40 ml | CO | CH4O
product | 2-Butyl-1-[[1-(2-cyanophenyl)-1H-indol-4-yl]methyl]-1H-imidazole-5-carboxylic acid | 200 mg | C(CCC)C=1N(C(=CN1)C(=O)O)CC1=C2C=CN(C2=CC=C1)C1=C(C=CC=C1)C#N | C24H22N4O2
